US04758680
A solution of 2,5-dimethyl-4-hydroxy-3(2H)-furanone (pineapple ketone, 44.0 g, 0.33 mole) and triethylamine (50.5 g, 0.5 mole) in methylene chloride (220 g) is cooled to 5° C. under nitrogen atmosphere. To the cooled solution is added over a period of 2.0 hours, a solution of methyl chloroformate (38.6 g, 0.41 mole) in methylene chloride (200 g), which is then stirred at 5°-8° C. for two additional hours. The reaction mixture is filtered through a Buchner funnel to remove the triethylamine hydrochloride. The salt is washed with methylene chloride (200 ml). The combined organic layers are washed twice with 100 ml portions of water and dried over sodium sulfate. The solvent is removed in vacuo and the crude product distilled (<0.1 torr) through a Goodloe column to yield 18 g of methyl 2,5-dimethyl-3-oxo-4(2H)-furyl carbonate product, b.p. 105° C.; IR (neat film) 2960(M), 1770(S), 1710(S), 1640(S), 1250(S), 1200(S) cm-1 ; 'H NMR δ 1.55 (d, J=8 Hz, 3), 2.28 (s, 3), 3.95 (s, 3), 4.70 (q, J=8 Hz, 1).

reactant | 2,5-dimethyl-4-hydroxy-3(2H)-furanone | 0.33 mole, 44.0 g | CC1OC(=C(C1=O)O)C | C6H8O3
reactant | triethylamine | 0.5 mole, 50.5 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.41 mole, 38.6 g | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 220 g | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 g | C(Cl)Cl | CH2Cl2
product | methyl 2,5-dimethyl-3-oxo-4(2H)-furyl carbonate | 18 g | C(OC)(OC=1C(C(OC1C)C)=O)=O | C8H10O5
